US07541374B2
1.10 g of 3-i-propyl-1H-pyrazole was suspended in 20 ml of water, and 1.6 g of 50% aqueous solution of sodium hydroxide was added to it. The mixture was cooled to 0° C., and then 1.76 g of bromine was added to the mixture, followed by stirring at room temperature for 5 hours. The reaction mixture was extracted by ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.88 g of 4-bromo-3-i-propyl-1H-pyrazole.

reactant | 3-i-propyl-1H-pyrazole | 1.10 g | C(C)(C)C1=NNC=C1 | C6H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromine | 1.76 g | BrBr | Br2
solvent | water | 20 ml | O | H2O
product | 4-bromo-3-i-propyl-1H-pyrazole | 1.88 g | BrC=1C(=NNC1)C(C)C | C6H9BrN2
